US04328367
In benzene, 2-fluoroaniline was acetylated with acetic anhydride to obtain 2-fluoroacetanilide. This 2-fluoroacetanilide was held in glacial acetic acid at 43°-52° C. and an equivalent of chlorine gas was introduced, whereby 2-fluoro-4-chloroacetanilide was obtained. This product was deacetylated with hydrochloric acid and neutralized with sodium hydroxide to recover 2-fluoro-4-chloroaniline as an oil boiling at 64°-65° C./0.25 mmHg.

reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2-fluoroacetanilide | FCC(=O)NC1=CC=CC=C1 | C8H8FNO
